US04847268
A mixture of 4.08 g (20 mmol) of 8-chloro-5,6,7,8-tetrahydroquinoline hydrochloride, 3.38 g (25 mmol) of 4-mercaptobenzonitrile and 6.91 g (50 mmol) of potassium carbonate in 34 ml of dimethylformamide was stirred under nitrogen at room temperature overnight. The mixture was poured into aqueous saturated sodium chloride and was extracted with ethyl acetate. The extract was washed with ice-cold aqueous 2N sodium hydroxide and water, dried over MgSO4 and evaporated under reduced pressure to obtain 4.72 g (89%) of 4-(5,6,7,8-tetrahydroquinoline-8-ylthio)-benzonitrile as colorless crystals (from methanoldichloromethane).

reactant | 8-chloro-5,6,7,8-tetrahydroquinoline hydrochloride | 20 mmol, 4.08 g | Cl.ClC1CCCC=2C=CC=NC12
reactant | 4-mercaptobenzonitrile | 25 mmol, 3.38 g | SC1=CC=C(C#N)C=C1 | C7H5NS
reactant | potassium carbonate | 50 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
product | 4-(5,6,7,8-tetrahydroquinoline-8-ylthio)-benzonitrile | 4.72 g, 89% | N1=CC=CC=2CCCC(C12)SC1=CC=C(C#N)C=C1 | C16H14N2S
